US09085540B2
To a mixture of tert-butyl (3R)-3-(methoxymethyl)-4-methylpiperazine-1-carboxylate (220 mg) and ethyl acetate (2.33 mL) was added a 4 M hydrogen chloride ethyl acetate solution (2.19 mL), followed by stirring at room temperature overnight. The reactant was concentrated under reduced pressure to obtain (2R)-2-(methoxymethyl)-1-methylpiperazine dihydrochloride (218 mg) as a white solid.

reactant | tert-butyl (3R)-3-(methoxymethyl)-4-methylpiperazine-1-carboxylate | 220 mg | COC[C@H]1CN(CCN1C)C(=O)OC(C)(C)C | C12H24N2O3
reactant | hydrogen chloride ethyl acetate | 4 M, 2.19 mL | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 2.33 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-2-(methoxymethyl)-1-methylpiperazine dihydrochloride | 218 mg | Cl.Cl.COC[C@@H]1N(CCNC1)C | InChI=1S/C7H16N2O.2ClH/c1-9-4-3-8-5-7(9)6-10-2;;/h7-8H,3-6H2,1-2H3;2*1H/t7-;;/m1../s1
